US07151105B2
[4-(2-{2-Cyclopentyl-5-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)-2-ethylphenyl]acetonitrile
To a solution of {4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-ethylphenyl}acetonitrile (200 mg, 0.57 mmol, example A(102)) in anhydrous MeOH (6 mL) at room temperature was added 5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde (120 mg, 0.68 mmol). The mixture was stirred for 5 min before borane-dimethylamine complex (37 mg, 0.62 mmol) was added. The reaction was stirred at that temperature for 15 hours before it was quenched by the addition of 1.0 N HCl. The solvent was removed and the residue was purified by HPLC to obtain the desired product (60 mg, 21% yield). 1H NMR (300 MHz, DMSO-d6): δ 1.03 (t, J=7.5 Hz, 3 H), 1.32–1.64 (m, 8 H), 2.06 (m, 2 H), 2.36–2.55 (m, 12 H), 2.73 (d, J=17.9 Hz, 1 H), 3.64 (d, J=16.1 Hz, 1 H), 3.77 (d, J=16.4 Hz, 1 H), 3.89 (s, 2 H), 6.95 (s, 1 H), 7.00 (s, 1 H), 7.04 (d, J=7.7 Hz, 1 H), 7.17 (d, J=7.7 Hz, 1 H), 10.81 (s, 1 H).

reactant | {4-[2-(2-cyclopentyl-4,6-dioxotetrahydro-2H-pyran-2-yl)ethyl]-2-ethylphenyl}acetonitrile | 0.57 mmol, 200 mg | C1(CCCC1)C1(OC(CC(C1)=O)=O)CCC1=CC(=C(C=C1)CC#N)CC | C22H27NO3
reactant | 5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | 0.68 mmol, 120 mg | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
solvent | MeOH | 6 mL | CO | CH4O
product | [4-(2-{2-Cyclopentyl-5-[(5,7-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-4-hydroxy-6-oxo-3,6-dihydro-2H-pyran-2-yl}ethyl)-2-ethylphenyl]acetonitrile | 60 mg, 21% yield | C1(CCCC1)C1(OC(C(=C(C1)O)CC1=NN2C(N=C(C=C2C)C)=N1)=O)CCC1=CC(=C(C=C1)CC#N)CC | C30H35N5O3
